US03947406
1-Amino-3,3,5-trimethylcyclohexyl hydroperoxide (17.3 g; 78% pure) was added with stirring to acetaldehyde (12 g.) in light petroleum (b.p. 40° - 60°C) 50 c.c.) with cooling to below 0°C. When the hydroperoxide had dissolved, the organic layer was separated, treated with solid magnesium sulphate and stored at 0°C overnight. The solution was then filtered, washed and distilled as in Example 1 and gave, in addition to dihydroisophorone, the same product (13.0 g.) as Example 1.

reactant | 1-Amino-3,3,5-trimethylcyclohexyl hydroperoxide | 17.3 g | NC1(CC(CC(C1)C)(C)C)OO | C9H19NO2
reactant | acetaldehyde | 12 g | C(C)=O | C2H4O
reactant | hydroperoxide | [O-]O
product | dihydroisophorone | CC1CC(=O)CC(C1)(C)C | C9H16O
